US05962002
1-Chloro-3,3-dimethylbutane (log) was added dropwise to magnesium turnings (2 g) with an initiating amount of iodine crystals in dry diethyl ether (100 ml) and Grignard formation allowed to proceed to completion over 1 hour. The mixture was poured onto dry ice (50 g) very slowly and 0.5 N sodium hydroxide added and the basic aqueous layer provided extracted with diethyl ether (x2). The basic aqueous layer was acidified and extracted with diethyl ether which was dried over magnesium sulphate, filtered then evaporated under vacuum to yield 7.2 g of 4,4-dimethyl pentanoic acid.

reactant | 1-Chloro-3,3-dimethylbutane | ClCCC(C)(C)C | C6H13Cl
reactant | magnesium | 2 g | [Mg] | Mg
reactant | iodine crystals | II | I2
reactant | sodium hydroxide | 0.5 N | [OH-].[Na+]
reactant | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 4,4-dimethyl pentanoic acid | 7.2 g | CC(CCC(=O)O)(C)C | C7H14O2
